US04025641
1-Bromo-6-(4-isopentyloxy-butyloxy)-hexane
Using 4-isopentyloxy butanol and 1,6-dibromo-hexane, the above compound is produced. B.P.: 142°-145°/0.7 mm.

reactant | 4-isopentyloxy butanol | C(CC(C)C)OCCCCO | C9H20O2
reactant | 1,6-dibromo-hexane | BrCCCCCCBr | C6H12Br2
product | 1-Bromo-6-(4-isopentyloxy-butyloxy)-hexane | BrCCCCCCOCCCCOCCC(C)C | C15H31BrO2
